US05438052
A solution of butyllithium (0.6M) (74 ml) in n-hexane are mixed with 116 ml of diethyl ether and cooled to -55° C. Thereupon, a solution of 40.0 g of 5-bromo-2,2-diphenyl-1,3-benzodioxol in 170 ml of diethyl ether is added dropwise. The reaction mixture is stirred for 1 hour, whereby the temperature rises to -15° C. Subsequently, the mixture is cooled to -50° C. and dry sulphur dioxide gas is introduced for 45 minutes. The excess sulphur dioxide gas is removed by passing dry argon through the mixture for 1 hour. The reaction mixture is left to come to room temperature. There thereby results a white precipitate, which is filtered off and dried. There are obtained 22.2 g of 2,2-diphenyl-1,3-benzodioxol-5-sulphinic acid lithium salt as white crystals of m.p.>300° C. (dec.).

reactant | butyllithium | 0.6M, 74 ml | C(CCC)[Li]
reactant | 5-bromo-2,2-diphenyl-1,3-benzodioxol | 40.0 g | BrC1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C19H13BrO2
reactant | sulphur dioxide | S(=O)=O | O2S
solvent | n-hexane | CCCCCC | C6H14
solvent | diethyl ether | 170 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 116 ml | C(C)OCC | C4H10O
product | 2,2-diphenyl-1,3-benzodioxol-5-sulphinic acid lithium salt | 22.2 g | [Li+].C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)S(=O)[O-])C2=CC=CC=C2 | InChI=1S/C19H14O4S.Li/c20-24(21)16-11-12-17-18(13-16)23-19(22-17,14-7-3-1-4-8-14)15-9-5-2-6-10-15;/h1-13H,(H,20,21);/q;+1/p-1
